***********************************************************
*
* BC857C
*
* Nexperia
*
* General purpose PNP Transistor
* IC   = 100 mA
* VCEO = 45 V 
* hFE  = 420 - 800 @ 5V/2mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* Extraction date (week/year): 24/2021
* Spicemodel includes temperature dependency
*
**********************************************************
*#
* Please note: Diode D1, Transistor Q2 and Resistor RQ 
* are dedicated to improve modeling of quasi
* saturation area and reverse mode operation
* and do not reflect physical devices.
*
.SUBCKT BC857C 1 2 3
Q1 1 2 3 MAIN 0.9096
Q2 11 2 3 MAIN 0.09036
RQ 11 1 274.8
D1 1 2 DIODE
*
.MODEL MAIN PNP
+ IS = 1.883E-14
+ NF = 0.9819
+ ISE = 3.648E-15
+ NE = 1.624
+ BF = 484.9
+ IKF = 0.06622
+ VAF = 21.95
+ NR = 0.9812
+ ISC = 8.972E-16
+ NC = 1.192
+ BR = 16.86
+ IKR = 0.01771
+ VAR = 15.39
+ RB = 300
+ IRB = 5E-06
+ RBM = 2.863
+ RE = 0.4326
+ RC = 0.4093
+ XTB = 1.084
+ EG = 1.11
+ XTI = 0.5792
+ CJE = 1.173E-11
+ VJE = 1
+ MJE = 0.432
+ TF = 8.963E-10
+ XTF = 7.906
+ VTF = 2.729
+ ITF = 0.3067
+ PTF = 0
+ CJC = 6.794E-12
+ VJC = 1
+ MJC = 0.6324
+ XCJC = 1
+ TR = 2.5E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.4697
.MODEL DIODE D
+ IS = 6.371E-17
+ N = 0.9601
+ BV = 1000
+ IBV = 0.001
+ RS = 9.151
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*